US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-trifluoroacetyl amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
A mixture of 300 mg (1.28 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole and 3 ml of pyridine were added with 180 μl (1.28 m mol) of anhydrous trifluoroacetic acid with stirring for 3 hours at 0° C., followed by further stirring for 3 hours at the room temperature. After the completion of the reaction, the mixture was washed thrice with water and dried over anhydrous sodium sulfate. After the solvent was distilled off, the residue was subjected to a silica gel column chromatography using a developing solvent of ethyl acetate-methanol (10:1 (v/v)) to obtain 124 mg (yield: 29%) of the intended compound. A part of the obtained compound was recrystallized from ethanol to obtain the pure intended compound.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 300 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | trifluoroacetic acid | 180 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-trifluoroacetyl amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 124 mg, yield: 29% | CC1(C(C(C=2C(=C(C=3C(=NON3)C2)N)O1)C(C(F)(F)F)=O)O)C | C13H12F3N3O4
